US04190581
A mixture of ethyl 4-hydroxy-pyrazino[2,3-f]quinoline-3-carboxylate(28.8 g) and 10% potassium hydroxide solution(350 ml) was heated under reflux for an hour. The resulting reaction solution was acidified with a concentrated hydrochloric acid. After filtration, the resulting solid was washed with water and acetone, and then dried over phosphorus pentoxide to give 4-hydroxy-pyrazino[2,3-f]quinoline-3-carboxylic acid(23.5 g) as pale yellow crystalline powders, m.p. >300° C.

reactant | ethyl 4-hydroxy-pyrazino[2,3-f]quinoline-3-carboxylate | 28.8 g | ON1C(C=NC2=C3C=CC=NC3=CC=C21)C(=O)OCC | C14H13N3O3
reactant | hydrochloric acid | Cl | ClH
solvent | potassium hydroxide | 350 ml | [OH-].[K+]
product | 4-hydroxy-pyrazino[2,3-f]quinoline-3-carboxylic acid | 23.5 g | ON1C(C=NC2=C3C=CC=NC3=CC=C21)C(=O)O | C12H9N3O3
